US05112834
10. 3-amino-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine
0.5 g of 8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-3-nitroso-imidazo[1,2-a]pyridine is dissolved in a mixture consisting of 10 ml glacial acetic acid and 3 ml water and 0.5 g commercial zinc powder is added at 0° C. waterbath temperature. After one hour the solution is diluted with 100 ml icewater adjusted to pH 8 with saturated sodium hydrogen carbonate solution and extracted with ethyl acetate. The combined extracts are dried over potassium carbonate. After removal of the solvent in vacuo, the mixture is purified over silica gel (methylene chloride/methanol=98/02). After recrystallization from ethanol the title compound of 125°-127° C. is obtained.

reactant | 8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-3-nitroso-imidazo[1,2-a]pyridine | 0.5 g | O[C@H]1[C@@H](C2=CC=CC=C2C1)OC=1C=2N(C=CC1)C(=C(N2)C)N=O | C17H15N3O3
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | zinc | 0.5 g | [Zn] | Zn
solvent | water | 3 ml | O | H2O
product | 3-amino-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine | NC1=C(N=C2N1C=CC=C2O[C@H]2[C@@H](CC1=CC=CC=C21)O)C | C17H17N3O2
